Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:5].[O:1]=[C:2]=[C:3]([H:4])[C:6](=[O:7])[C:8][H:9]>>[O:1]=[C:2][C:3]([H:4])([H:5])[C:6](=[O:7])[C:8][H:9],-1.6197426653799998
[H:1][C:2]#[C:3][O:5][C:6][O:7][C:8]([H:9])[H:10].[H:4]>>[H:1][C:2]=[C:3]([H:4])[O:5][C:6][O:7][C:8]([H:9])[H:10],-2.17914177027
[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16]>>[C:4]([H:5])([H:6])[C:7]([H:8])([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16].[H:1][C:2][H:3],5.2333302106
[H:1][O:2][C:3]([H:4])([H:5])/[C:6]([O:8][H:9])=[C:10](\[H:11])[C:12]([H:13])([H:14])[H:15].[H:7]>>[H:1][O:2][C:3]([H:4])([H:5])[C@@:6]([H:7])([O:8][H:9])[C:10]([H:11])[C:12]([H:13])([H:14])[H:15],-1.53964436977
[H:1][O:2][C:3]([H:4])([H:5])[C:6](=[C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6](=[C:7][H:8])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16].[H:9],4.99643601741
[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9][O:10][C:11]([H:12])([H:13])[H:14]>>[H:14].[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9][O:10][C:11]([H:12])[H:13],4.43534164423
[H:1][C:2]([H:3])[O:4]/[C:5]=[C:6](\[H:7])[O:8][C:9]([H:10])([H:11])[H:12]>>[H:1][C:2][H:3].[O:4]=[C:5]=[C:6]([H:7])[O:8][C:9]([H:10])([H:11])[H:12],2.0380835792500003
[C:6]=[C:7]([H:8])[H:9].[H:1][O:2][C:3]([H:4])[H:5]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]=[C:7]([H:8])[H:9],-3.23430897412
[H:1][O:2][C:3][C@@:4]([H:5])([O:6][C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14]>>[H:1][O:2]/[C:3]=[C:4](\[O:6][C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14].[H:5],2.89781842706
[C:7]([H:8])(=[C:9]([H:10])[H:11])[C:12]([H:13])[H:14].[H:1][O:2][C:3]=[C:4]([H:5])[H:6]>>[H:1][O:2][C:3](=[C:4]([H:5])[H:6])[C:7]([H:8])([C:9]([H:10])[H:11])[C:12]([H:13])[H:14],-1.6148899391299998
[C:5]#[C:6][H:7].[H:1][C:2][O:3][C:4]=[C:8]([H:9])[H:10]>>[H:1][C:2][O:3][C:4]([C:5]#[C:6][H:7])=[C:8]([H:9])[H:10],-6.17547575889
[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8](=[O:9])[H:10]>>[H:10].[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]=[O:9],4.01490093741
[H:15].[H:1][C:2]([H:3])=[C:4][C:5]([H:6])([H:7])[C:8][C:9]([H:10])([H:11])[C:12]([H:13])[H:14]>>[H:1][C:2]([H:3])=[C:4][C:5]([H:6])([H:7])[C:8][C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15],-4.65244361296
[C:7]([H:8])([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16].[H:1][O:2][C:3]([H:4])([H:5])[O:6]>>[H:1][O:2][C:3]([H:4])([H:5])[O:6][C:7]([H:8])([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16],-3.60267771188
[H:1][C:2]#[C:3][C:4][C:5]([H:6])([H:7])[O:8][C:9]([H:10])([H:11])[H:12]>>[C:4][C:5]([H:6])([H:7])[O:8][C:9]([H:10])([H:11])[H:12].[H:1][C:2]#[C:3],5.97062933798
[C:1]=[C:2]([H:3])[H:4].[C:5]([H:6])([O:7][H:8])[O:9][C:10]([H:11])([H:12])[H:13]>>[C:1][C:2]([H:3])([H:4])[C@:5]([H:6])([O:7][H:8])[O:9][C:10]([H:11])([H:12])[H:13],-0.878780433949
[C:4]([H:5])#[C:6][C:7]([H:8])[O:9][H:10].[H:1][C:2]=[O:3]>>[H:1][C:2][O:3][C:4]([H:5])=[C:6]=[C:7]([H:8])[O:9][H:10],-0.240182555699
[H:1][O:2]/[C:3]([O:4][C:5]([H:6])([H:7])[H:8])=[C:9](\[H:10])[C:11]([H:12])([H:13])[H:14]>>[H:10].[H:1][O:2]/[C:3]([O:4][C:5]([H:6])([H:7])[H:8])=[C:9]/[C:11]([H:12])([H:13])[H:14],4.974948267469999
[C:2]([H:3])[O:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])[H:13].[O:1]>>[O:1]=[C:2]([H:3])[O:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])[H:13],-7.7342152200699985
[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C@:7]([H:8])([C:9]([H:10])[H:11])[C:12]([H:13])([H:14])[H:15]>>[C:4]([H:5])([H:6])[C:7]([H:8])([C:9]([H:10])[H:11])[C:12]([H:13])([H:14])[H:15].[O:1]=[C:2][H:3],3.79874556242
[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])[C:10](=[O:11])[H:12]>>[O:11].[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])=[C:10][H:12],5.74703932
[O:1]=[C:2]=[C:3][O:4][C:5]([H:6])=[C:7]([H:8])[H:9]>>[H:6].[O:1]=[C:2]=[C:3][O:4][C:5]=[C:7]([H:8])[H:9],5.077881079719999
[H:1][C:2][C:3]([H:4])([H:5])[O:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[O:13][H:14]>>[H:14].[H:1][C:2][C:3]([H:4])([H:5])[O:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[O:13],4.6261932698
[H:1][C:2]([H:3])/[C:4](=[C:5](/[H:6])[C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14]>>[C:4](=[C:5](\[H:6])[C:7]([H:8])([H:9])[H:10])\[C:11]([H:12])([H:13])[H:14].[H:1][C:2][H:3],5.48864520987
[C:5]([H:6])([H:7])[O:8][C:9]([H:10])=[C:11]([H:12])[H:13].[O:1]=[C:2]([H:3])[H:4]>>[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[O:8][C:9]([H:10])=[C:11]([H:12])[H:13],-0.90039652669
[H:1][C:2]#[C:3]/[C:5]([H:6])=[C:7]/[O:8][C:9]([H:10])[H:11].[H:4]>>[H:1][C:2]=[C:3]([H:4])/[C:5]([H:6])=[C:7]/[O:8][C:9]([H:10])[H:11],-1.9310196297
[C:1].[C:2]=[O:3]>>[C:1][C:2][O:3],-3.00947603014
[H:1][C:2]([H:3])[O:4][C@@:5]12[O:6][C@@:7]1([H:8])[C:9]2[H:10]>>[H:1][C:2]([H:3])[O:4][C:5][O:6][C:7]([H:8])=[C:9][H:10],2.20880945059
